US05994368
A mixture of 2-methoxyaniline (10 g), acetic acid (1 ml) and ethyl 2-acetylpropionate (12.3 g) in benzene (30 ml) was refluxed for 24 hours, and then the solvent was removed to give crude ethyl 3-(2-methoxyanilino)-2-methyl-2-butenoate, which was used as a starting compound at the following example without further purification.

reactant | 2-methoxyaniline | 10 g | COC1=C(N)C=CC=C1 | C7H9NO
reactant | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
reactant | ethyl 2-acetylpropionate | 12.3 g | C(C)(=O)C(C(=O)OCC)C | C7H12O3
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | ethyl 3-(2-methoxyanilino)-2-methyl-2-butenoate | COC1=C(NC(=C(C(=O)OCC)C)C)C=CC=C1 | C14H19NO3
